US08334287B2
d) 2-Methyl-5-(2-methyl-imidazol-1-yl)-2H-pyridazin-3-one
To a solution of 3.30 g (14.7 mmol) of 4-chloro-2-methyl-5-(2-methyl-imidazol-1-yl)-2H-pyridazin-3-one in 60 ml of ethanol at 50° C. were added 2.44 ml (1.78 g, 17.6 mmol) of triethylamine and 0.312 g of Pd 10%/C. The suspension was stirred under hydrogen atmosphere for 15 h at 50° C. The catalyst was filtered off and washed twice with 10 ml of ethanol. The filtrate was concentrated in vaccuo, and taken up in 50 ml of methylene chloride. The organic phase was washed four times with water, dried and concentrated to yield the title compound (2.30 g, 12.09 mmol, 82%) as a white crystalline solid, MS: m/e=191.2 (M+H+).

reactant | 4-chloro-2-methyl-5-(2-methyl-imidazol-1-yl)-2H-pyridazin-3-one | 14.7 mmol, 3.30 g | ClC=1C(N(N=CC1N1C(=NC=C1)C)C)=O | C9H9ClN4O
reactant | triethylamine | 17.6 mmol, 2.44 ml, 1.78 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Pd | 0.312 g | [Pd] | Pd
product | 2-Methyl-5-(2-methyl-imidazol-1-yl)-2H-pyridazin-3-one | 12.09 mmol, 2.30 g, 82% | CN1N=CC(=CC1=O)N1C(=NC=C1)C | C9H10N4O
